US08071592B2
1-(2-{4-[(3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Hydrochloride
A mixture of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride (174 mg, 0.466 mmol) in chloroform (5 ml) and MeOH (0.1 ml) was treated with triethylamine (205 μl, 1.484 mmol) and stirred for 0.25 h before addition of 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 126(e)) (69 mg, 0.424 mmol). The reaction was stirred for 0.5 h before addition of NaBH(OAc)3 (270 mg, 1.272 mmol). The reaction was stirred for 0.5 h before addition of sat. aq NaHCO3 (50 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the free base of the title compound (157 mg, 75%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride | 0.466 mmol, 174 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | triethylamine | 1.484 mmol, 205 μl | C(C)N(CC)CC | C6H15N
reactant | 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
reactant | NaBH(OAc)3 | 1.272 mmol, 270 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.1 ml | CO | CH4O
product | 1-(2-{4-[(3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Hydrochloride | 157 mg, 75% | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | InChI=1S/C25H31N5O3.ClH/c1-32-21-14-23-22(28-16-21)4-5-25(31)30(23)11-10-29-8-6-19(7-9-29)26-15-20-13-18-3-2-12-33-24(18)17-27-20;/h4-5,13-14,16-17,19,26H,2-3,6-12,15H2,1H3;1H
